US07700594B2
7-Chloro-2-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-1H-indole
A flask containing lr(Ome)2(COD)2 [Inorganic Syntheses (1985), 23, 126](850 mg, 0.0013 mol), 4,4′-di-tert-butyl-[2,2′]bipyridinyl (686 mg, 0.00256 mol) and 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi-1,3,2-dioxaborolane (15.2 g, 0.0600 mol) was evacuated and refilled with Ar (3×), then charged with anhydrous DME (400 mL, 3 mol) and a solution of 7-chloro-1H-indole (0.086 mol) in DME (10 mL). The resulting mixture was stirred under Ar for 16 h then concentrated and chromatographed over silica gel eluting with 10% EtOAc/Heptane to afford the desired product as a waxy solid in a 96% yield. 1H NMR (400 MHz, CDCl3) δ ppm 1.39 (s, 12H), 7.04 (t, J=7.71 Hz, 1 H), 7.15 (d, J=2.27 Hz, 1H), 7.21-7.30 (m, 1H), 7.58 (d, J=8.08 Hz, 1H) and 8.72 (br. s., 1H).

reactant | 4,4′-di-tert-butyl-[2,2′]bipyridinyl | 0.00256 mol, 686 mg | C(C)(C)(C)C1=CC(=NC=C1)C1=NC=CC(=C1)C(C)(C)C | C18H24N2
reactant | 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi-1,3,2-dioxaborolane | 0.0600 mol, 15.2 g | CC1(OB(OC1(C)C)B1OC(C(O1)(C)C)(C)C)C | C12H24B2O4
reactant | 7-chloro-1H-indole | 0.086 mol | ClC=1C=CC=C2C=CNC12 | C8H6ClN
solvent | DME | 10 mL | COCCOC | C4H10O2
solvent | DME | 3 mol, 400 mL | COCCOC | C4H10O2
product | 7-Chloro-2-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-1H-indole | 96% yield | ClC=1C=CC=C2C=C(NC12)B1OC(C(O1)(C)C)(C)C | C14H17BClNO2
